US04673746
To a boiling suspension of 15.0 g of ethyl[(7-chloro-3-(2-furyl)-1,2-benzisoxazol-6-yl)oxy]acetate, Example 7, in 500 ml of boiling 95% ethyl alcohol there is added 10 ml of a 50% sodium hydroxide solution causing the sodium salt to precipitate out almost immediately. An additional 300 ml of 95% ethyl alcohol is added and boiling is maintained for 30 minutes. The reaction mixture is permitted to cool slightly, after which 100 ml of a 5% hydrochloric acid solution is added thereto. The product begins to separate with cooling, 250 ml of water is added and the diluted mixture is chilled with ice. The precipitate is collected by filtration and recrystallized from isopropyl alcohol to yield the product {[7-chloro-3-(2-furyl)-1,2-benzisoxazol-6-yl]oxy}acetic acid having a melting point of 230° to 233° C.

reactant | ethyl[(7-chloro-3-(2-furyl)-1,2-benzisoxazol-6-yl)oxy]acetate | 15.0 g | C(C)OC(COC1=C(C2=C(C(=NO2)C=2OC=CC2)C=C1)Cl)=O | C15H12ClNO5
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium | [Na] | Na
solvent | ethyl alcohol | C(C)O | C2H6O
product | {[7-chloro-3-(2-furyl)-1,2-benzisoxazol-6-yl]oxy}acetic acid | ClC1=C(C=CC=2C(=NOC21)C=2OC=CC2)OCC(=O)O | C13H8ClNO5
